US07470699B2
Preparation of 4-[5-Cyano-6-(6-propyl-pyridin-3-ylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound A66)
In a 25 mL round-bottomed flask fitted with a condenser and N2 inlet was placed 4-[6-(6-chloro-pyridin-3-ylamino)-5-cyano-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (100 mg, 1.3 mmol), n-propylzinc bromide (0.5M in THF, 0.72 mL), tetrakis (triphenylphosphino)palladium (28 mg, 0.024 mmol), and THF (3.5 mL). The reaction mixture was refluxed overnight under N2 atmosphere. The product was purified by preparative HPLC. 1H NMR (CDCl3, 400 MHz) δ 1.03 (t, 3H), 1.26 (d, 6H), 1.85 (m, 4H), 1.98 (m, 2H), 3.04 (t, 2H), 3.44 (m, 2H), 3.77 (m, 2H), 4.94 (m, 1H), 5.46 (m, 1H), 7.57 (d, 1H), 8.34 (s, 1H), 8.51 (s, 1H), 8.56 (d, 1H), 9.42 (s, 1H). Exact mass calculated for C22H28N6O3 424.22, found 425.2 (MH+).

reactant | 4-[6-(6-chloro-pyridin-3-ylamino)-5-cyano-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 1.3 mmol, 100 mg | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C#N)NC=1C=NC(=CC1)Cl | C19H21ClN6O3
reactant | n-propylzinc bromide | 0.5M, 0.72 mL | [Br-].C(CC)[Zn+]
catalyst | tetrakis (triphenylphosphino)palladium | 0.024 mmol, 28 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | 4-[5-Cyano-6-(6-propyl-pyridin-3-ylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C#N)NC=1C=NC(=CC1)CCC | C22H28N6O3
